US07399775B2
4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)-1-methylpiperidine
To dichloromethane (5 ml) were added 4-[(4-chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)piperidine hydrochloride (100 mg, 0.245 mmol), triethylamine (0.070 ml, 0.50 mmol) and a 37% aqueous formaldehyde solution (0.060 ml, 0.739 mmol), followed by the addition of sodium triacetoxyborohydride (220 mg, 1.04 mmol) at room temperature. After stirring at room temperature for 14 hours, a 1N aqueous sodium hydroxide solution (6.0 ml) was added. The mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added diethyl ether and the mixture was washed with a 1N aqueous sodium hydroxide solution. The organic layer was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel chromatography, and the fraction obtained from the dichloromethane:methanol=30:1 eluate was concentrated under reduced pressure to give a white solid. The solid thus obtained was washed with diisopropyl ether, whereby the title compound (70 mg, 0.18 mmol, 74%) was obtained as a white powder.

reactant | 4-[(4-chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)piperidine hydrochloride | 0.245 mmol, 100 mg | Cl.ClC1=CC=C(C=C1)S(=O)(=O)C1(CCNCC1)C1=C(C=CC(=C1)F)F
reactant | triethylamine | 0.50 mmol, 0.070 ml | C(C)N(CC)CC | C6H15N
reactant | formaldehyde | 0.739 mmol, 0.060 ml | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.04 mmol, 220 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N, 6.0 ml | [OH-].[Na+]
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)-1-methylpiperidine | 0.18 mmol, 70 mg, 74% | ClC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C)C1=C(C=CC(=C1)F)F | C18H18ClF2NO2S
